US09255093B2
6-(bromomethyl)benzofuran-2-carbonitrile (0.5 g, 2.12 mmol) was dissolved in DMF (21.2 ml). K2CO3 (0.44 g, 3.18 mmol) was added, followed by 3-bromo-4-(trifluoromethoxy)aniline (314 μL, 2.12 mmol), and the mixture was stirred at RT for 18 hr. The reaction was diluted with EtOAc and water. The organic layer was washed with water×6, brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude mixture was diluted with DCM and silica gel was added. The mixture was concentrated under reduced pressure to dry-load material for purification. The crude mixture was purified via silica gel FCC, 100% Heptane-50% EtOAc/50% Heptane to give 6-(((3-bromo-4-(trifluoromethoxy)phenyl)amino)methyl)benzofuran-2-carbonitrile (651 mg). LCMS retention time=1.57 minutes (LC method 1); MS (m+1)=412.1. 1H NMR (400 MHz, DMSO-d6) δ 4.46 (d, J=6.0 Hz, 2H), 6.62 (dd, J=9.0, 2.8 Hz, 1H), 6.88-6.95 (m, 2H), 7.17 (dq, J=9.0, 1.3 Hz, 1H), 7.44 (dd, J=8.2, 1.4 Hz, 1H), 7.70 (s, 1H), 7.80 (dd, J=8.1, 0.7 Hz, 1H), 8.08 (d, J=1.0 Hz, 1H).

reactant | 6-(bromomethyl)benzofuran-2-carbonitrile | 2.12 mmol, 0.5 g | BrCC1=CC2=C(C=C(O2)C#N)C=C1 | C10H6BrNO
reactant | K2CO3 | 3.18 mmol, 0.44 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-4-(trifluoromethoxy)aniline | 2.12 mmol, 314 μL | BrC=1C=C(N)C=CC1OC(F)(F)F | C7H5BrF3NO
solvent | DMF | 21.2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(((3-bromo-4-(trifluoromethoxy)phenyl)amino)methyl)benzofuran-2-carbonitrile | 651 mg | BrC=1C=C(C=CC1OC(F)(F)F)NCC1=CC2=C(C=C(O2)C#N)C=C1 | C17H10BrF3N2O2
